Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fatigue, otherwise asymptomatic 
 
Major Surgical or Invasive Procedure:
___: Coronary artery bypass graft x4:  Left internal mammary
    artery to left anterior descending artery, and saphenous
    vein grafts to diagonal, obtuse marginal, and posterior
    descending arteries.

 
History of Present Illness:
___ year old male who originally
presented to ___ in ___ with severe
abdominal pain was found to have diverticulitis with an abscess.
He was initially treated with IVF for several days, but 
developed
PND and chest congestion. He was treated with IV
diuretics with improvement. He underwent a colostomy (hopefully
temporary with possible reversal in ___. An 
echocardiogram
was obtained and revealed a reduced LVEF of ___. He was sent
for a nuclear stress test which demonstrated a severe
inferolateral defect and LVEF of 22%. He was started on
Lisinopril and Metoprolol which has since been changed to Coreg. 

 Due to the findings on his stress test he was referred for a
cardiac catheterization to further evaluate. He was found to 
have
multivessel disease and is now being referred to cardiac surgery
to evaluate for surgical revascularization.  

 
Past Medical History:
CHF (newly diagnosed)
Diabetes Mellitus 
Hyperlipidemia
Ulcerative colitis
Diverticulitis with abscess s/p Colostomy ___ 
Anxiety 
Insomnia
Depression
Rheumatic fever at age ___ (treated with Penicillin until age ___
Past Surgical History:
Colostomy ___
Eye Lift 
Hypospadias s/p repair ___

 
Social History:
___
Family History:
Family History:Premature coronary artery disease- Father had
rheumatic fever as a child. Died of MI at age ___

 
Physical Exam:
Admit PE:

Pulse: 80 Resp:18  O2 sat:98/RA
B/P  Right:112/68    Left: 109/79
Height:5'5"   Weight:63.5 kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None []
Neuro: Grossly intact []
Pulses:
Femoral      Right:  p Left:p
DP           Right: p  Left:p
___           Right:  p Left:p
Radial       Right: p  Left:p

Carotid Bruit        Right:  /  Left:/

 
Pertinent Results:
Admit Labs:
___ 11:41AM BLOOD WBC-17.9* RBC-3.55* Hgb-10.4* Hct-32.8* 
MCV-92 MCH-29.3 MCHC-31.7* RDW-13.3 RDWSD-45.5 Plt ___
___ 11:41AM BLOOD ___ PTT-32.6 ___
___ 12:40PM BLOOD UreaN-11 Creat-0.6 Na-140 K-4.4 Cl-108 
HCO3-22 AnGap-14
___ 12:30PM BLOOD Mg-2.0

STUDIES:
Cardiac Catheterization: ___     ___: is normal.
LAD: has moderate disease (50%) in the mid segment of the 
vessel.
The ___ diagonal has severe disease (> 70%) in the
proximal-to-mid segment of the vessel.
LCX: is totally occluded with left-to-left collaterals filling
the distal part of the vessel retrogradely.
RCA: is a dominant vessel with severe stenosis (two tandem
lesions; 80% and 90%) in the mid and distal segments of the
vessel. The distal stenosis is at the trifurcation of the distal
right coronary artery, posterior descending artery (PDA), and
posterolateral (PL) branch. The PDA and PL arteries fill
retrogradely via left-to-right collaterals.

Cardiac ___ ___ is mildly enlarged. LV is mildly enlarged. LVEF ___. Grade
III diastolic dysfunction. RV is normal size. Trace MR. ___
valve is ___. There appears to be a calcified nodular
appearance to the non coronary cusp. Consider healed vegetation,
calcified leaflet, or other mass. No AI. Aortic root is normal
size. 

Other diagnostics:
___ nuclear stress test at ___
Large sized perfusion abnormality involving the inferior,
inferolateral, and lateral walls consistent with infarct with
mild ___ infarct ischemia. Severe LV dysfunction with inferior
hypokinesis. LVEF 22%. 

Intraop TEE, ___:
Conclusions   
PreBypass
 No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is moderately dilated. There is moderate regional left 
ventricular systolic dysfunction with inferior and inferolateral 
hypokinesis. Right ventricular chamber size and free wall motion 
are normal. There are simple atheroma in the descending thoracic 
aorta. The aortic valve leaflets (3) are mildly thickened. There 
is no aortic valve stenosis. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen with restricted posterior 
mitral leaflet. There is no pericardial effusion. These findings 
were discussed with Dr. ___ at the time of exam in the 
operating room.

 PostBypass
 The patient is A paced on a phenylephrine infusion. No new 
regional wall motion abnormalities. EF is 40 - 45%. Mitral 
regurgitation is 1 - 2+.. Aortic contours are intact following 
decannulation. The rest of the exam is unchanged from prebypass. 
   
   .

___ 08:00AM BLOOD WBC-13.5* RBC-3.36* Hgb-10.3* Hct-31.9* 
MCV-95 MCH-30.7 MCHC-32.3 RDW-14.0 RDWSD-46.9* Plt ___
___ 01:36AM BLOOD WBC-19.0* RBC-3.02* Hgb-9.1* Hct-27.3* 
MCV-90 MCH-30.1 MCHC-33.3 RDW-13.6 RDWSD-44.9 Plt ___
___ 04:00AM BLOOD WBC-22.6* RBC-3.21* Hgb-9.7* Hct-29.1* 
MCV-91 MCH-30.2 MCHC-33.3 RDW-13.6 RDWSD-44.9 Plt ___
___ 07:12AM BLOOD ___
___ 01:36AM BLOOD ___ PTT-25.8 ___
___ 08:00AM BLOOD Glucose-193* UreaN-23* Creat-0.7 Na-138 
K-4.5 Cl-99 HCO3-26 AnGap-18
___ 12:59PM BLOOD Glucose-188* UreaN-19 Creat-0.5 Na-138 
K-3.7 Cl-97 HCO3-30 AnGap-15
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Coronary artery bypass graft x4:  Left 
internal mammary artery to left anterior descending artery, and 
saphenous vein grafts to diagonal, obtuse marginal, and 
posterior descending arteries.
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, but required additional time with 
vasopressor support.  Chest tubes were removed without problems. 
 He developed symptomatic, rapid atrial fibrillation on POD 2 
and converted to sinus rhythm after IV amiodarone and beta 
blocker was initiated.  After receiving 1uRBC for postop anemia, 
he developed flash pulmonary edema and required bipap support.  
He responded will to diuretics and was transitioned to HiFlo 
nasal cannula and eventual traditional nasal cannula oxygen 
support.  His pacing wires were discontinued without 
complication.  Given his ischemic cardiomyopathy (EF 35%), his 
lisinopril was restarted.  Lisinopril was subsequently 
discontinued due to hypotension.   He was transferred to the 
telemetry floor for further recovery.  The patient was evaluated 
by the physical therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 6 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged to home with 
___ in good condition with appropriate follow up instructions.
 
Medications on Admission:
1. testosterone (bulk) 2  pumps miscellaneous DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. zaleplon 5 mg oral QHS:PRN insomnia 
4. Nicotine Patch 21 mg TD DAILY 
5. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
6. Carvedilol 3.125 mg PO BID 
7. MetFORMIN (Glucophage) 500 mg PO BID 
8. Atorvastatin 80 mg PO QPM 
9. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
10. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
RX *alprazolam 0.5 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. zaleplon 5 mg oral QHS:PRN insomnia 
7. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*60 
Tablet Refills:*0
8. TraMADol 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
9. Amiodarone 400 mg PO BID 
___ bid x 7 days, then 400mg daily x 7 days, then 200mg daily 
RX *amiodarone 200 mg 2 tablet(s) by mouth twice a day Disp #*58 
Tablet Refills:*0
10. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0
11. Docusate Sodium 100 mg PO BID 
hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
12. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CAD s/p revascularization
brief postop atrial fibrillation

PMH:
CHF (newly diagnosed)
Diabetes Mellitus 
Hyperlipidemia
Ulcerative colitis
Diverticulitis with abscess s/p Colostomy ___ 
Anxiety 
Insomnia
Depression
Rheumatic fever at age ___ (treated with Penicillin until age ___
Past Surgical History:
Colostomy ___
Eye Lift 
Hypospadias s/p repair ___

 
Discharge Condition:
Alert and oriented x3 non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
 Left- Incision - healing well, no erythema or drainage
 Edema - trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 
Followup Instructions:
___